US04642313
2.0 g of ethyl 2-[2-(4-methoxyphenyl)-5-(2-furyl)-4-oxazolyl]acetate, 30 ml of methanol, 3 ml of water and 0.85 g of potassium hydroxide are treated in the same manner as described in Example 16. 1.5 g of 2-[2-(4-methoxyphenyl)-5-(2-furyl)-4-oxazolyl]acetic acid are thereby obtained. Yield: 82.0%

reactant | ethyl 2-[2-(4-methoxyphenyl)-5-(2-furyl)-4-oxazolyl]acetate | 2.0 g | COC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C18H17NO5
reactant | methanol | 30 ml | CO | CH4O
reactant | potassium hydroxide | 0.85 g | [OH-].[K+]
solvent | water | 3 ml | O | H2O
product | 2-[2-(4-methoxyphenyl)-5-(2-furyl)-4-oxazolyl]acetic acid | 1.5 g, Yield: 82.0% | COC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C=1OC=CC1 | C16H13NO5
